US04264595
Production of 3-hydroxymethyl-4-methyl-1,2,4-triazole-5-thiol
A mixture of 9 g of glycolic acid hydrazide, 7.3 g of methyl isothiocyanate, 50 ml of methanol and 50 ml of ethanol was heated under reflux for 5 hours. Following the addition of 2.3 g of sodium metal, the mixture was further refluxed for 24 hours. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in 150 ml of water and adjusted to pH 2.5 with phosphoric acid. The resultant crystals were collected by filtration and recrystallized from ethanol. By the above procedure there were obtained 5.2 g of the captioned compound. m.p. 199°-201° C.

reactant | glycolic acid hydrazide | 9 g | C(CO)(=O)NN | C2H6N2O2
reactant | methyl isothiocyanate | 7.3 g | CN=C=S | C2H3NS
reactant | methanol | 50 ml | CO | CH4O
reactant | sodium | 2.3 g | [Na] | Na
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-hydroxymethyl-4-methyl-1,2,4-triazole-5-thiol | 5.2 g | OCC1=NN=C(N1C)S | C4H7N3OS
